US04767776
3,4-Dihydro-7-(1-methylethoxy)-1(2H)-naphthalenone
A suspension of 24.3 g (0.22 mole) of potassium tert-butoxide in 240 ml of dimethyl sulfoxide under a nitrogen atmosphere was stirred and cooled in a cold water bath while a solution of 29.2 g (0.18 mole) of 3,4-dihydro-7-hydroxy-1(2H)-naphthalenone in 400 ml of dimethyl sulfoxide was added dropwise over 45 minutes. The mixture was stirred at room temperature for an additional 45 minutes, and then 23.7 ml (31.0 g; 0.25 mole) of 2-bromopropane was added in one portion. After stirring for an additional 30 hours, the mixture was added to 2.0 kg of ice/water and extracted with dichloromethane (4×300 ml). The combined organic layers were back-washed with water (2×150 ml), dried (anhydrous magnesium sulfate), and evaporated (vacuum) to an oil residue. Flash chromatographic purification (silica gel, dichloromethane elution) of the residue yielded 24.0 g (65% yield) of the analytically pure ether product as an oil, suitable for conversion to the naphthol described in Example 4.

reactant | potassium tert-butoxide | 0.22 mole, 24.3 g | CC(C)([O-])C.[K+]
reactant | 3,4-dihydro-7-hydroxy-1(2H)-naphthalenone | 0.18 mole, 29.2 g | OC1=CC=C2CCCC(C2=C1)=O | C10H10O2
reactant | 2-bromopropane | 0.25 mole, 23.7 ml, 31.0 g | BrC(C)C | C3H7Br
reactant | naphthol | C=1C=CC=2C(C1)=CC=CC2O | C10H8O
solvent | dimethyl sulfoxide | 240 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 400 ml | CS(=O)C | C2H6OS
product | 3,4-Dihydro-7-(1-methylethoxy)-1(2H)-naphthalenone | 65% yield | CC(C)OC1=CC=C2CCCC(C2=C1)=O | C13H16O2
